US07704993B2
Step 1: Preparation of 2-chloro-N-[2-(2,4-dichlorophenyl)ethyl]propionamide.
A solution of 2,4-dichlorophenethylamine (1.0 g, 5.3 mmol) in dichloromethane (20 mL) was treated with diisopropylethylamine (0.82 g, 6.3 mmol) and 2-chloropropionylchloride (0.67 mL, 5.3 mmol) sequentially, and stirred at 20° C. for 4 hours. The mixture was diluted with dichloromethane (50 mL), washed with 10% aqueous HCl, brine (20 mL), dried with Na2SO4 and concentrated, resulting in 1.5 g of the desired product as a brown oil. MS calculated for C11H12Cl3NO+H: 280, observed: 280.

reactant | 2,4-dichlorophenethylamine | 5.3 mmol, 1.0 g | ClC1=C(CCN)C=CC(=C1)Cl | C8H9Cl2N
reactant | diisopropylethylamine | 6.3 mmol, 0.82 g | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-chloropropionylchloride | 5.3 mmol, 0.67 mL | ClC(C(=O)Cl)C | C3H4Cl2O
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-chloro-N-[2-(2,4-dichlorophenyl)ethyl]propionamide | 1.5 g | ClC(C(=O)NCCC1=C(C=C(C=C1)Cl)Cl)C | C11H12Cl3NO
